US09212182B2
1-(5-Bromo-4-chloro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.484 g, 0.948 mmol), (3-chloro-5-fluorophenyl)boronic acid (0.248 g, 1.421 mmol), potassium carbonate (0.393 g, 2.84 mmol), and Pd(PPh3)4 (0.110 g, 0.095 mmol) were combined in 1,4-dioxane (3.55 ml) and water (1.185 ml). The reaction was heated to 90° C. for 2 h. The reaction was cooled to RT and sat. aq. ammonium chloride was added. The organics were extracted (×3) with DCM, dried via phase separator, and concentrated in vacuo. The crude material was purified via MPLC, eluting with 0-100% ethyl acetate in heptanes, to yield 1-(3′,6-dichloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.344 g, 0.614 mmol, 64.8% yield). m/z (ESI) 562.0 (M+H)+. 1 H NMR (400 MHz, DMSO-d6) δ ppm 3.76 (s, 3 H) 6.45 (d, J=1.76 Hz, 1 H) 6.79 (d, J=9.64 Hz, 1 H) 6.93 (d, J=9.02 Hz, 1 H) 7.35 (ddd, J=9.59, 2.38, 1.50 Hz, 1 H) 7.39-7.41 (m, 1 H) 7.49 (dt, J=8.73, 2.11 Hz, 1 H) 7.57 (d, J=5.08 Hz, 2H) 7.84 (dd, J=9.02, 2.28 Hz, 1 H) 8.22 (d, J=9.54 Hz, 1 H) 8.37 (d, J=2.18 Hz, 1 H) 8.72 (d, J=1.76 Hz, 1 H) 11.66 (s, 1 H). The material was separated by chiral SFC on a Chiralpak AD with 45% isopropanol to give (P)-1-(3′,6-dichloro-5′-fluoro-4-methoxy-3-biphenylyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinolinesulfonamide as peak 1 and (M)-1-(3′,6-dichloro-5′-fluoro-4-methoxy-3-biphenylyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinolinesulfonamide as peak 2. Data for peak 1: m/z (ESI) 560.0 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.76 (s, 3 H) 6.45 (d, J=1.76 Hz, 1 H) 6.79 (d, J=9.64 Hz, 1 H) 6.93 (d, J=8.91 Hz, 1 H) 7.35 (d, J=9.51 Hz, 1 H) 7.40 (s, 1 H) 7.49 (dt, J=8.76, 2.15 Hz, 1 H) 7.57 (d, J=5.18 Hz, 2 H) 7.84 (dd, J=9.02, 2.28 Hz, 1 H) 8.22 (d, J=9.43 Hz, 1 H) 8.37 (d, J=2.28 Hz, 1 H) 8.72 (d, J=1.76 Hz, 1 H) 11.66 (s, 1 H). Data for peak 2: m/z (ESI) 560.0 (M+H)+. 1 H NMR (400 MHz, DMSO-d6) δ ppm 3.76 (s, 3 H) 6.45 (d, J=1.76 Hz, 1 H) 6.79 (d, J=9.64 Hz, 1 H) 6.93 (d, J=8.91 Hz, 1 H) 7.35 (ddd, J=9.61, 2.36, 1.50 Hz, 1 H) 7.39-7.41 (m, 1 H) 7.49 (dt, J=8.71 Hz, 1 H) 7.57 (d, J=5.18 Hz, 2 H) 7.84 (dd, J=8.97, 2.23 Hz, 1 H) 8.22 (d, J=9.54 Hz, 1 H) 8.37 (d, J=2.18 Hz, 1 H) 8.72 (d, J=1.76 Hz, 1 H) 11.66 (s, 1 H).

reactant | 1-(5-Bromo-4-chloro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.948 mmol, 0.484 g | BrC=1C(=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC)Cl | C19H13BrClN3O5S
reactant | (3-chloro-5-fluorophenyl)boronic acid | 1.421 mmol, 0.248 g | ClC=1C=C(C=C(C1)F)B(O)O | C6H5BClFO2
reactant | potassium carbonate | 2.84 mmol, 0.393 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 3.55 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.185 ml | O | H2O
catalyst | Pd(PPh3)4 | 0.095 mmol, 0.110 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3′,6-dichloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.614 mmol, 0.344 g, 64.8% yield | ClC=1C=C(C=C(C1)F)C1=CC(=C(C=C1Cl)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C25H16Cl2FN3O5S
